US05344843
A mixture of alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid methyl ester (0.685 g) in methanol (10 mL) heated on the steam bath and added sufficient actone to dissolve the solids. Then 0.5N sodium hydroxide (8 mL) was added and the mixture was treated as in Example 19. Extraction with dichloromethane provided material which was crystallized from diethyl ether-hexane to give 0.524 g of colorless alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid, mp 155°-156° C.

reactant | alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid methyl ester | 0.685 g | COC(C(C1=CC=C(C=C1)OCCOC12CC3CC(CC(C1)C3)C2)=O)=O | C21H26O5
reactant | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | alpha-oxo-4-[[2-[tricyclo(3.3.1.1-3,7)dec-1-yloxy]ethyl]oxy]benzeneacetic acid | 0.524 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCOC12CC3CC(CC(C1)C3)C2 | C20H24O5
